US08859773B2
To a suspension of 1-chloroisoquinoline-7-carboxylic acid (100 mg, 0.482 mmol), RuPhos (6.5 mg, 0.014 mmol), BrettPhos (11.2 mg, 0.014 mmol) and sodium tert-butoxide (70.2 mg, 0.723 mmol) in dioxane (0.5 mL) was added t-butylamine (0.254 mL, 2.41 mmol). The vessel was sealed and mixture was heated to 110° C. and stirred overnight. The reaction was cooled down to room temperature and lithium bistrimethylsilylamide (0.136 mL, 0.723 mmol) was added. The reaction mixture was heated to 110° C. and left stirring overnight. The reaction mixture was cooled down to room temperature and filtered through celite and rinsed with methanol. The filtrate was concentrated under reduced pressure and 1N aqueous sodium hydroxide (1 mL) was added. Partitioned between ethyl acetate and a mixture of water and 1N aqueous sodium hydroxide. The layers were separated and the aqueous layer was acidified to pH 4. The aqueous layer was extracted into ethyl acetate. The extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to obtain 1-(tert-butylamino)isoquinoline-7-carboxylic acid.

reactant | 1-chloroisoquinoline-7-carboxylic acid | 0.482 mmol, 100 mg | ClC1=NC=CC2=CC=C(C=C12)C(=O)O | C10H6ClNO2
reactant | RuPhos | 0.014 mmol, 6.5 mg | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | BrettPhos | 0.014 mmol, 11.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | sodium tert-butoxide | 0.723 mmol, 70.2 mg | CC(C)([O-])C.[Na+]
reactant | t-butylamine | 2.41 mmol, 0.254 mL | C(C)(C)(C)N | C4H11N
reactant | lithium bistrimethylsilylamide | 0.723 mmol, 0.136 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 1-(tert-butylamino)isoquinoline-7-carboxylic acid | C(C)(C)(C)NC1=NC=CC2=CC=C(C=C12)C(=O)O | C14H16N2O2
